US06887875B2
2-methoxy-4-trifluoromethoxybenzene boronic acid (72 g, 0.31 mol), K2CO3 (80.16 g, 0.58 mol) and water (100 ml) are added to a solution of 2-chloro-3-methyl -5-nitro-pyridine (50 g, 0.29 mol) in DME (500 ml) at room temperature. Pd(Ph3P)4 (3.35 g, 2.9 mmol) is added and the mixture is stirred at 85° C. for 19 hours. 500 ml of water is added and the mixture is extracted with EtOAc. The combined extracts are washed with brine and dried over Na2SO4. After removal of the solvent under reduced pressure, the residue is purified by flash column chromatography (hexane/EtOAc 9:1) to obtain 2-(2-methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine. Rf (hexane/EtOAc=9:1)=0.41.

reactant | 2-methoxy-4-trifluoromethoxybenzene boronic acid | 0.31 mol, 72 g | COC1=C(C=CC(=C1)OC(F)(F)F)B(O)O | C8H8BF3O4
reactant | K2CO3 | 0.58 mol, 80.16 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 ml | O | H2O
reactant | 2-chloro-3-methyl -5-nitro-pyridine | 0.29 mol, 50 g | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | water | 500 ml | O | H2O
solvent | DME | 500 ml | COCCOC | C4H10O2
catalyst | Pd(Ph3P)4 | 2.9 mmol, 3.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-methoxy-4-trifluoromethoxy-phenyl)-3-methyl-5-nitro-pyridine | COC1=C(C=CC(=C1)OC(F)(F)F)C1=NC=C(C=C1C)[N+](=O)[O-] | C14H11F3N2O4
